US06969724B2
(±)-7-[(4-Phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one
To a solution of 0.3 g (1.47 mmol) of (±)-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one-7-carboxylic acid in 5 mL of CH2Cl2 were added, at 0° C., 0.27 mL (3.69 mmol) of SOCl2 and the solution was warmed at 50° C. for 20 min. The solvent and the excess SOCl2 were removed in vacuo and the resulting residue was redissolved in 5 mL of CH2Cl2. 0.24 g (1.47 mmol) of 4-phenylpiperidine and 0.2 mL (1.47 mmol) of triethylamine dissolved in 5 mL of CH2Cl2 were added at room temperature to this solution; the stirring was continued overnight, then the solvent was removed in vacuo and the residue was taken up in AcOEt; the organic phase was washed successively with 10% NaOH, 10% HCl and water, the solvent was removed in vacuo yielding 0.49 g of the title compound as an oil which was used without further purification.

reactant | (±)-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one-7-carboxylic acid | 1.47 mmol, 0.3 g | C1=CC=CC2=C1CCC(CC2=O)C(=O)O | C12H12O3
reactant | SOCl2 | 3.69 mmol, 0.27 mL | O=S(Cl)Cl | Cl2OS
reactant | 4-phenylpiperidine | 1.47 mmol, 0.24 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | triethylamine | 1.47 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-7-[(4-Phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 0.49 g | C1(=CC=CC=C1)C1CCN(CC1)C(=O)C1CC(C2=C(CC1)C=CC=C2)=O | C23H25NO2
